US05332757
Using analogous procedures to those described in Example 95, di-[(E)-5-(1-tert-butyldimethylsilyloxyiminoethyl)pyrid-2-yl]disulphide was reacted with 4-methoxy-4-(3-thienyl)tetrahydropyran and the resultant product was treated with tetrabutylammonium fluoride to give (E)-6-[4-(4-methoxytetrahydropyran-4-yl)thien-2-ylthio]pyrid-3-yl methyl ketone oxime in 75% yield, m.p. 151°-153° C.;

reactant | di-[(E)-5-(1-tert-butyldimethylsilyloxyiminoethyl)pyrid-2-yl]disulphide | [Si](C)(C)(C(C)(C)C)O\N=C(/C)\C=1C=CC(=NC1)SSC1=NC=C(C=C1)/C(/C)=N/O[Si](C)(C)C(C)(C)C | C26H42N4O2S2Si2
reactant | 4-methoxy-4-(3-thienyl)tetrahydropyran | COC1(CCOCC1)C1=CSC=C1 | C10H14O2S
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (E)-6-[4-(4-methoxytetrahydropyran-4-yl)thien-2-ylthio]pyrid-3-yl methyl ketone oxime | 75% yield | C\C(\C=1C=NC(=CC1)SC=1SC=C(C1)C1(CCOCC1)OC)=N/O | C17H20N2O3S2
